US04962109
Stage 3: 4-[(2,2-dichlorocyclopropyl)methyl]-2,3,5,6-tetrafluorobenzyl alcohol.
4-[(2,2-dichlorocyclopropyl)methyl]-2,3,5,6-tetrafluorobenzyl tetrahydropyran-2-yl ether (0.240 g) was heated at the reflux temperature for 3 hours in a mixture of methanol (5 cm3) and 2M hydrochloric acid (1 cm3). The solvent was evaporated under reduced pressure and water removed azeotropically from the sample by heating with toluene (2×10 cm3). The title product (0.15 q) was obtained as an orange oil.

reactant | 4-[(2,2-dichlorocyclopropyl)methyl]-2,3,5,6-tetrafluorobenzyl tetrahydropyran-2-yl ether | 0.240 g | O1C(CCCC1)OCC1=C(C(=C(C(=C1F)F)CC1C(C1)(Cl)Cl)F)F | C16H16Cl2F4O2
solvent | methanol | 5 cm3 | CO | CH4O
solvent | hydrochloric acid | 2M, 1 cm3 | Cl | ClH
product | 4-[(2,2-dichlorocyclopropyl)methyl]-2,3,5,6-tetrafluorobenzyl alcohol | ClC1(C(C1)CC1=C(C(=C(CO)C(=C1F)F)F)F)Cl | C11H8Cl2F4O
